US06692657B1
The 2-(2-(trans-4-(2,3-difluoro-4-ethoxyphenyl)-cyclohexyl)-ethyl)-1,3-dioxane (19.8 mmol) obtained by the reaction of Step 4 was dissolved in 100 ml of toluene, 87% formic acid (198 mmol) was added, and the solution was heated to reflux for 4 hours. The reaction solution was twice washed with 50 ml of a saturated aqueous solution of sodium hydrogen carbonate, then three times with 50 ml of water, and dried over anhydrous magnesium sulfate. The solvent was distilled off under reduced pressure, to form crude 3-(trans-4-(2,3-difluoro-4-ethoxyphenyl)-cyclohexyl)-propanal (19.8 mmol).

reactant | 2-(2-(trans-4-(2,3-difluoro-4-ethoxyphenyl)-cyclohexyl)-ethyl)-1,3-dioxane | 19.8 mmol | FC1=C(C=CC(=C1F)OCC)[C@@H]1CC[C@H](CC1)CCC1OCCCO1 | C20H28F2O3
reactant | formic acid | 198 mmol | C(=O)O | CH2O2
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
product | 3-(trans-4-(2,3-difluoro-4-ethoxyphenyl)-cyclohexyl)-propanal | 19.8 mmol | FC1=C(C=CC(=C1F)OCC)[C@@H]1CC[C@H](CC1)CCC=O | C17H22F2O2
